US06211270B1
Cyanoacetyldibenzylurea
36.0 g (0.15 mol) of dibenzylurea, 15.3 g (0.18 mol) of cyanoacetic acid and 30.6 g (0.3 mol) of acetic anhydride are stirred at 80-85° C. for 2 hours. After cooling, the reaction mixture is stirred into 600 ml of water and the resultant precipitate is filtered off with suction and then dried to constant weight.

reactant | dibenzylurea | 0.15 mol, 36.0 g | C(C1=CC=CC=C1)NC(=O)NCC1=CC=CC=C1 | C15H16N2O
reactant | cyanoacetic acid | 0.18 mol, 15.3 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic anhydride | 0.3 mol, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 600 ml | O | H2O
product | Cyanoacetyldibenzylurea | C(#N)CC(=O)N(C(=O)NCC1=CC=CC=C1)CC1=CC=CC=C1 | C18H17N3O2
